US04341784
A solution of 12.0 g of ethyl 6-amino-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate in 120 ml of ethanol and 60 ml of aqueous 42% tetrafluoroboric acid was cooled to 0° C. To the solution kept at 0°-3° C. was added 6.0 g of isoamyl nitrite. The mixture was stirred for 30 minutes at the same temperature, and then diluted with 600 ml of ether to give a precipitate which was collected and washed with ether to give 12.8 g of 3-ethoxycarbonyl-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-6-diazonium tetrafluoroborate, decomposing at 142°-147° C.

reactant | ethyl 6-amino-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate | 12.0 g | NC=1C=C2C(C(=CN(C2=NC1OC)CC)C(=O)OCC)=O | C14H17N3O4
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | isoamyl nitrite | 6.0 g | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ether | 600 ml | CCOCC | C4H10O
product | 3-ethoxycarbonyl-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-6-diazonium tetrafluoroborate | 12.8 g | F[B-](F)(F)F.C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)[N+]#N)OC)CC | InChI=1S/C14H15N4O4.BF4/c1-4-18-7-9(14(20)22-5-2)11(19)8-6-10(17-15)13(21-3)16-12(8)18;2-1(3,4)5/h6-7H,4-5H2,1-3H3;/q+1;-1
